US07897607B2
1-(Dipropylamino)-3-(hydroxymethyl)-6-mesityl-4H-quinolizin-4-one
Ethyl 1-(dipropylamino)-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate, (0.020 g, 0.046 mmol), in tetrahydrofuran (1 mL) was cooled to −40° C. Diisobutylaluminum hydride (1.5M, 92 mL, 0.14 mmol) was added rapidly and the solution was warmed to room temperature. The reaction was quenched with methanol and stirred with saturated Rochelle's salt for 1 h. The solution was extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated. Flash chromatography (25% ethyl acetate/hexanes) gave 0.0107 g (59% yield) of the title compound as a yellow solid.

reactant | Ethyl 1-(dipropylamino)-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 0.046 mmol, 0.020 g | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC)CCC | C27H34N2O3
reactant | Diisobutylaluminum hydride | 0.14 mmol, 1.5M, 92 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(Dipropylamino)-3-(hydroxymethyl)-6-mesityl-4H-quinolizin-4-one | 0.0107 g, 59% yield | C(CC)N(C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)CO)CCC | C25H32N2O2
